US07528136B2
a) (2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidine-2-carboxylic acid methyl ester
As described for Example 64c, (S)-1-(3-chloro-benzyl)-4-oxo-pyrrolidine-2-carboxylic acid methyl ester (7 mmol) was converted, using (3,5-bis-trifluoromethyl-benzyl)-methyl-amine instead of (2,4-difluorobenzyl)-methyl-amine, to the title product in 95% yield as yellow oil. MS m/e=509.9 [M+H]+.

reactant | (S)-1-(3-chloro-benzyl)-4-oxo-pyrrolidine-2-carboxylic acid methyl ester | 7 mmol | COC(=O)[C@H]1N(CC(C1)=O)CC1=CC(=CC=C1)Cl | C13H14ClNO3
reactant | (3,5-bis-trifluoromethyl-benzyl)-methyl-amine | FC(C=1C=C(CNC)C=C(C1)C(F)(F)F)(F)F | C10H9F6N
product | (2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidine-2-carboxylic acid methyl ester | 95% yield | COC(=O)[C@H]1N(C[C@H](C1)N(C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC(=CC=C1)Cl | C23H23ClF6N2O2
